US08039472B2
To 6-((S)-2,3-dihydroxy-propoxy)-naphthalene-2-carboxylic acid methyl ester (0.9 g, 3.26 mmol) in anhydrous DMF (10 ml) is added 2,2-dimethoxypropane (2.0 ml, 16.3 mmol) and pyridinium p-toluenesulfonate (0.08 g, 0.32 mmol) and the reaction mixture is stirred at room temperature for 16 hours. The reaction mixture is concentrated in vacuo and the residue is dissolved in EtOAc. The EtOAc layer is washed with 10% NaHCO3, water, and brine, dried over anhydrous Na2SO4 and the solvent is evaporated in vacuo to obtain 6-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-naphthalene-2-carboxylic acid methyl ester as solid; 1H NMR (DMSO-d6): 1.32 (3H, s), 1.37 (3H, s), 3.78-3.82 (1H, m), 3.88 (3H, s), 4.11-4.20 (3H, m), 4.45-4.50 (1H, m), 7.26 (1H, dd, J=9.0, 2.0 Hz), 7.45 (1H, d, J=2.0 Hz), 7.88 (1H, d, J=9.0 Hz), 7.93 (1H, d, J=9.0 Hz), 8.04 (1H, d, J=9.0 Hz), 8.55 (1H, s).

reactant | 6-((S)-2,3-dihydroxy-propoxy)-naphthalene-2-carboxylic acid methyl ester | 3.26 mmol, 0.9 g | COC(=O)C1=CC2=CC=C(C=C2C=C1)OC[C@H](CO)O | C15H16O5
reactant | 2,2-dimethoxypropane | 16.3 mmol, 2.0 ml | COC(C)(C)OC | C5H12O2
reactant | pyridinium p-toluenesulfonate | 0.32 mmol, 0.08 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-naphthalene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=CC=C(C=C2C=C1)OC[C@H]1OC(OC1)(C)C | C18H20O5
